US08735362B2
Step D: 2-(2-Ethyl-1,1-dioxo-1lambda*6*-isothiazolidin-4-ylmethyl)-isoindole-1,3-dione
To a stirred solution of phthalimide (133 mg, 1 equiv) in tetrahydrofuran (4.5 ml) was added triphenylphosphine (237 mg, 1 equiv) and (2-Ethyl-1,1-dioxo-1lambda*6*-isothiazolidin-4-yl)-methanol (0.905 mmol). This solution was cooled down to 0° C. for the dropwise addition of diisopropylazodicarboxylate (0.18 ml, 1 equiv). The reaction mixture was stirred at room temperature over the weekend. It was then concentrated, and stirred in diethyl ether for 5 hours. Volatiles were removed in vacuo. Flash chromatography eluting with cyclohexane/ethyl acetate (7/3) afforded 261 mg (0.85 mmol, 94%). LCMS (Method E) 1.40 min, M+H 309. 1H-NMR (CDCl3, 400 MHz): 7.93-7.84 (m, 2H), 7.83-7.72 (m, 2H), 3.89 (dd, 2H), 3.41-3.23 (m, 2H), 3.17-2.98 (m, 5H), 1.22 (t, 3H).

reactant | phthalimide | 133 mg, 1 equiv | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 237 mg, 1 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2-Ethyl-1,1-dioxo-1lambda*6*-isothiazolidin-4-yl)-methanol | 0.905 mmol | C(C)N1S(CC(C1)CO)(=O)=O | C6H13NO3S
reactant | diisopropylazodicarboxylate | 0.18 ml, 1 equiv | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 4.5 ml | O1CCCC1 | C4H8O
product | 2-(2-Ethyl-1,1-dioxo-1lambda*6*-isothiazolidin-4-ylmethyl)-isoindole-1,3-dione | C(C)N1S(CC(C1)CN1C(C2=CC=CC=C2C1=O)=O)(=O)=O | C14H16N2O4S
